US07906652B2
Step 2: 3-{3-[(S)-{3-[(1S)-1-(3-bromo-5-fluorophenyl)-2-fluoro-2-methyl propyl]azetidin-1-yl}(4-chlorophenyl)methyl]phenyl}-1,2,4-oxadiazole
A mixture of 70 mg (0.125 mmol) of 3-[(S)-{3-[(1S)-1-(3-bromo-5-fluoro phenyl)-2-fluoro-2-methylpropyl]azetidin-1-yl}(4-chlorophenyl)methyl]-N-hydroxybenzenecarboximidamide, 1.5 mL of triethyl orthoformate, and 2 mL of xylene was stirred for 4 h at 125-130° C. Then it was concentrated, and the residue was purified by silica gel chromatography with hexanes/acetone to afford the title compound as a white solid; Mass Spectrum: m/e=572 (M+1, 35Cl), 574 (M+1, 37Cl).

reactant | 3-[(S)-{3-[(1S)-1-(3-bromo-5-fluoro phenyl)-2-fluoro-2-methylpropyl]azetidin-1-yl}(4-chlorophenyl)methyl]-N-hydroxybenzenecarboximidamide | 0.125 mmol, 70 mg | BrC=1C=C(C=C(C1)F)[C@@H](C(C)(C)F)C1CN(C1)[C@H](C=1C=C(C=CC1)C(NO)=N)C1=CC=C(C=C1)Cl | C27H27BrClF2N3O
reactant | triethyl orthoformate | 1.5 mL | C(OCC)(OCC)OCC | C7H16O3
solvent | xylene | 2 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 3-{3-[(S)-{3-[(1S)-1-(3-bromo-5-fluorophenyl)-2-fluoro-2-methyl propyl]azetidin-1-yl}(4-chlorophenyl)methyl]phenyl}-1,2,4-oxadiazole | BrC=1C=C(C=C(C1)F)[C@@H](C(C)(C)F)C1CN(C1)[C@H](C=1C=C(C=CC1)C1=NOC=N1)C1=CC=C(C=C1)Cl | C28H25BrClF2N3O
